US08377957B2
1-[4-(tert-Butyldimethylsilanyloxy)butyl]-4-chloro-1H-imidazo[4,5-c]quinolin-2-ol (5.0 g, 12 mmol) and ammonia (200 mL of a 7 N solution in methanol) were added to a high-pressure vessel, which was sealed and heated in an oven at 150° C. for five days, allowed to cool, and concentrated under reduced pressure. The crude product was triturated with hexane for 15 minutes, and the resulting solid was isolated by filtration, washed with hexane (500 mL), and dried under vacuum to provide 3.53 g of 4-amino-1-(4-hydroxybutyl)-1H-imidazo[4,5-c]quinolin-2-ol as a light gray solid.

reactant | 1-[4-(tert-Butyldimethylsilanyloxy)butyl]-4-chloro-1H-imidazo[4,5-c]quinolin-2-ol | 12 mmol, 5.0 g | [Si](C)(C)(C(C)(C)C)OCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)Cl)O | C20H28ClN3O2Si
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-1-(4-hydroxybutyl)-1H-imidazo[4,5-c]quinolin-2-ol | 3.53 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCO)O | C14H16N4O2
